US07902226B2
Ethyl (2,3,4-trichlorobenzoyl)acetate
2,3,4-trichlorobenzoic acid (4.51 g, 20.0 mmol) was dissolved in tetrahydrofuran (80 ml), carbonyldiimidazole (3.89 g, 24.0 mmol) was added thereto while cooling with ice, and then stirred at room temperature for 3 hours (solution A). Meanwhile, malonic acid monoethyl ester monopotassium salt (6.81 g, 40.0 mmol) was suspended in ethyl acetate, and while cooling with ice, triethylamine (13.9 ml, 100.0 mmol) and magnesium chloride (5.71 g, 60.0 mmol) were added thereto. After stirring at room temperature for 3 hours, the reaction solution was cooled with ice and the above-described solution A was dripped into this reaction solution over a period of 10 minutes. After then washing solution A into the reaction solution using tetrahydrofuran (10 ml), it was stirred at room temperature for 14 hours, and then the reaction solution was poured into a 10% aqueous citric acid solution (200 ml). This was then extracted with ethyl acetate (200 ml), washed with saturated saline solution (200 ml), and then dried over anhydrous sodium sulfate. After then removing the drying agent by filtration, the solvent was evaporated under a reduced pressure, and the crude product obtained was subject to silica gel chromatography, thereby obtaining 2.681 g (45%) of the title compound as a pale-red oil from an n-hexane:ethyl acetate=5:1 eluate.

reactant | 2,3,4-trichlorobenzoic acid | 20.0 mmol, 4.51 g | ClC1=C(C(=O)O)C=CC(=C1Cl)Cl | C7H3Cl3O2
reactant | carbonyldiimidazole | 24.0 mmol, 3.89 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | malonic acid monoethyl ester monopotassium salt | 40.0 mmol, 6.81 g | [K+].C(C)OC(CC(=O)[O-])=O
reactant | triethylamine | 100.0 mmol, 13.9 ml | C(C)N(CC)CC | C6H15N
reactant | magnesium chloride | 60.0 mmol, 5.71 g | [Cl-].[Mg+2].[Cl-]
reactant | citric acid | 200 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | Ethyl (2,3,4-trichlorobenzoyl)acetate | 2.681 g, 45% | ClC1=C(C(=O)CC(=O)OCC)C=CC(=C1Cl)Cl | C11H9Cl3O3
